US07846950B2
5-{3-Fluoro-4-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-phenoxymethyl}-thiophene-3-carbonitrile
The title compound is prepared in a manner substantially analogous to Procedure C from (2-Fluoro-4-hydroxy-phenyl)-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone and 5-(bromomethyl) 3-thiophenecarbonitrile [CAS 186552-10-3]. MS (ES+) m/e 428.3

reactant | (2-Fluoro-4-hydroxy-phenyl)-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | FC1=C(C=CC(=C1)O)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C17H23FN2O2
reactant | 5-(bromomethyl) 3-thiophenecarbonitrile | BrCC1=CC(=CS1)C#N | C6H4BrNS
product | 5-{3-Fluoro-4-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-phenoxymethyl}-thiophene-3-carbonitrile | FC=1C=C(OCC2=CC(=CS2)C#N)C=CC1C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C23H26FN3O2S
